US06706709B2
3-[5-(3-Pyrrolidin-1-yl-propyl)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one
A mixture of oxindole (27 mg, 0.2 mmol), 5-(3-pyrrolidin-1-yl-propyl)-1H-indole-2-carbaldehyde (51 mg, 0.2 mmol) and piperidine (0.1 mL) in ethanol (1 mL) was heated in a sealed tube at 80° C. for 3 hours. The precipitate was collected by vacuum filtration, washed with ethanol/ethyl acetate and dried to give 55 mg (74%) of the title compound.

reactant | oxindole | 0.2 mmol, 27 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 5-(3-pyrrolidin-1-yl-propyl)-1H-indole-2-carbaldehyde | 0.2 mmol, 51 mg | N1(CCCC1)CCCC=1C=C2C=C(NC2=CC1)C=O | C16H20N2O
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-[5-(3-Pyrrolidin-1-yl-propyl)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one | 55 mg, 74% | N1(CCCC1)CCCC=1C=C2C=C(NC2=CC1)C=C1C(NC2=CC=CC=C12)=O | C24H25N3O
